US04191768
Preparation of 1,5-Bis[p-(trifluoromethoxy)phenyl]-1,4-pentadien-3-one-4,5,6,7-tetrahydro-1H-1,3-diazepin-2-ylhydrazone
A mixture of 1,5-bis[p-(trifluoromethoxy)phenyl]-1,4-pentadien-3-one (4.0 g; 0.01 mole), 4,5,6,7-tetrahydro-1H-1,3-diazepine-2-ylhydrazine hydroiodide (2.6 g; 0.01 mole) and isopropyl alcohol (25 ml) is heated at reflux for 2 to 3 hours. The reaction mixture is then cooled to -15° C., and the precipitated material is isolated by filtration and washed with ether. The isolated material is mixed with ether and saturated sodium carbonate solution and the mixture stirred for about 15 minutes. The ether layer is then separated, dried, and concentrated to afford 3.8 g (75%) of title product, a bright yellow solid, m.p. 184.5°-185.5° C.

reactant | 1,5-bis[p-(trifluoromethoxy)phenyl]-1,4-pentadien-3-one | 0.01 mole, 4.0 g | FC(OC1=CC=C(C=C1)C=CC(C=CC1=CC=C(C=C1)OC(F)(F)F)=O)(F)F | C19H12F6O3
reactant | 4,5,6,7-tetrahydro-1H-1,3-diazepine-2-ylhydrazine hydroiodide | 0.01 mole, 2.6 g | I.N1C(=NCCCC1)NN
solvent | isopropyl alcohol | 25 ml | C(C)(C)O | C3H8O
product | 1,5-Bis[p-(trifluoromethoxy)phenyl]-1,4-pentadien-3-one-4,5,6,7-tetrahydro-1H-1,3-diazepin-2-ylhydrazone | 3.8 g, 75% | N1C(=NCCCC1)NN=C(C=CC1=CC=C(C=C1)OC(F)(F)F)C=CC1=CC=C(C=C1)OC(F)(F)F | C24H22F6N4O2
